US04283341
To a refluxing solution of cupric acetylacetonate (0.005 g, 0.019 mmole) in 40 ml of toluene was added dropwise over a period of 2.5 hours under an atmosphere of argon gas a solution of (±)-3-methyl-1-tribromomethyl-2-butenyl diazoacetate (0.203 g, 0.005 ml) in 10 ml of toluene. The mixture was then heated under reflux for one hour. After cooling, the reaction mixture was washed successively with two portions of 1 N aqueous hydrochloric acid, once with saturated aqueous sodium bicarbonate, and twice with saturated aqueous sodium chloride. After drying over magnesium sulfate, the solution was evaporated to give a yellow oil as the residue. The residue was purified by column chromatography on a silica gel column using 9/1 n-hexane/ethyl acetate as the eluent, yielding (±)-4-tribromomethyl-6,6-dimethyl-2-oxo-3-oxabicyclo-[3.1.0]hexane (0.053 g, yield 28%); mp 101-103° after recrystallization from n-hexane.

reactant | (±)-3-methyl-1-tribromomethyl-2-butenyl diazoacetate | 0.005 ml, 0.203 g | [N+](=[N-])=CC(=O)OC(C=C(C)C)C(Br)(Br)Br | C8H9Br3N2O2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | cupric acetylacetonate | 0.019 mmole, 0.005 g | CC(=O)CC(=O)C.CC(=O)CC(=O)C.[Cu]
product | (±)-4-tribromomethyl-6,6-dimethyl-2-oxo-3-oxabicyclo-[3.1.0]hexane | 0.053 g, yield 28% | BrC(C1OC(C2C(C12)(C)C)=O)(Br)Br | C8H9Br3O2
